US07723329B2
Step 3) 2-(2-Azido-ethoxy)-6-benzenesulfonylmethyl-4-fluoro-phenylamine
A mixture of 2-benzenesulfonylmethyl-6-(2-chloro-ethoxy)-4-fluorophenylamine (1.67 g, 4.87 mmoles) and sodium azide (0.38 g, 5.84 mmoles) in DMSO (20 mL) was stirred together in a round bottom flask under nitrogen at 90° C. for 3 hours. Reaction mixture was cooled to room temperature, diluted with water, extracted with EtOAC, washed with water (2×), brine (1×), dried over Na2SO4, and concentrated under vacuum to afford the title compound as an off white solid (1.44 g, 4.14 mmoles).

reactant | 2-benzenesulfonylmethyl-6-(2-chloro-ethoxy)-4-fluorophenylamine | 4.87 mmoles, 1.67 g | C1(=CC=CC=C1)S(=O)(=O)CC1=C(C(=CC(=C1)F)OCCCl)N | C15H15ClFNO3S
reactant | sodium azide | 5.84 mmoles, 0.38 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(2-Azido-ethoxy)-6-benzenesulfonylmethyl-4-fluoro-phenylamine | N(=[N+]=[N-])CCOC1=C(C(=CC(=C1)F)CS(=O)(=O)C1=CC=CC=C1)N | C15H15FN4O3S
